US05834494
5-Trifluoromethylindoline (D43)
5-Trifluoromethylindole (D42) was reduced in the usual way with sodium cyanoborohydride in glacial acetic acid to give the title compound (D43) (0.18 g, 83%)

reactant | 5-Trifluoromethylindole | FC(C=1C=C2C=CNC2=CC1)(F)F | C9H6F3N
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-Trifluoromethylindoline | 0.18 g, 83% | FC(C=1C=C2CCNC2=CC1)(F)F | C9H8F3N
